US05318721
0.01 m of p-(trifluoromethyl)-benzoyl chloride is added dropwise with stirring to a solution of 0.01 m of 2-p-hydroxyphenyl-5-nonylpyrimidine in 20 ml of pyridine at 0°-5°, the mixture is stirred for 20 hours at room temperature, and worked up as usual. p-(5-Nonylpyrimidin-2-yl)-phenyl p-(trifluoromethyl)-benzoate is obtained.

reactant | p-(trifluoromethyl)-benzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | 2-p-hydroxyphenyl-5-nonylpyrimidine | OC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCCC | C19H26N2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | p-(5-Nonylpyrimidin-2-yl)-phenyl p-(trifluoromethyl)-benzoate | FC(C1=CC=C(C(=O)OC2=CC=C(C=C2)C2=NC=C(C=N2)CCCCCCCCC)C=C1)(F)F | C27H29F3N2O2
